US06281381B1
A 250 ml flask was fitted with a mechanical stirrer, a thermometer, and a reflux condenser. The flask was charged with 38.2 ml of a solution of sodium hydroxide in ethanol (0.49N, 18.7 mmol), 4.8 ml of ethanol, water (0 to 100 mol. eq., according to the crystal form desired), and 5 g (18.7 mmol) of alendronic acid monohydrate. The reaction mixture was boiled with vigorous stirring for about 15 hours until stability of pH of the liquid phase was reached (approx. pH 7). After cooling of the reaction mixture to ambient temperature the precipitate was filtered, washed with absolute ethanol, and dried overnight in a vacuum oven (10-15 mm Hg, ambient temperature) to give 96-99% sodium alendronate having the following crystalline forms: crystalline Form B, when 0-4 (preferably 0-2) mol. eq. water were used; crystalline Form F, when 3-5 mol. eq. water were used; crystalline Form E, when 11-13 (preferably 12) mol. eq. water were used; and crystalline Form G, when 15-100 (preferably 20-80) mol. eq. water were used.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | alendronic acid monohydrate | 18.7 mmol, 5 g | C(CC(O)(P(=O)(O)O)P(=O)(O)O)CN.O
solvent | ethanol | 4.8 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethanol | 18.7 mmol, 0.49N | C(C)O | C2H6O
product | sodium alendronate | 96-99% | C(CC(O)(P(=O)(O)O)P(=O)(O)[O-])CN.[Na+] | InChI=1S/C4H13NO7P2.Na/c5-3-1-2-4(6,13(7,8)9)14(10,11)12;/h6H,1-3,5H2,(H2,7,8,9)(H2,10,11,12);/q;+1/p-1
